US07727988B2
5-(6-methyl-2-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E32)
5-(6-methyl-2-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione was treated with 4N HCl in dioxane (2 eq), to give the title compound as a white powder. (55 mg, 31% yield).

reactant | 5-(6-methyl-2-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione | CC1=CC=CC(=N1)C=1C(NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C26H27F3N4O2
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 2 eq | O1CCOCC1 | C4H8O2
product | 5-(6-methyl-2-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | 31% yield | Cl.Cl.CC1=CC=CC(=N1)C=1C(NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C26H27F3N4O2.2ClH/c1-17-5-4-6-22(30-17)21-15-33(24(35)31-23(21)34)12-3-2-11-32-14-20-13-25(20,16-32)18-7-9-19(10-8-18)26(27,28)29;;/h4-10,15,20H,2-3,11-14,16H2,1H3,(H,31,34,35);2*1H/t20-,25+;;/m0../s1
